US06211241B1
1-(Naphthalene-1-sulfonyl) -pyrrolidin-3 -ylamine
To a solution of 1-naphthalenesulfonyl chloride (1.0 g, 5.4 mmol) in 50 ml of CH2Cl2 with 2 ml of trimethylamine was added 3-t-butoxycarbonylpyrrolidine (1.5 g, 6.5 mmol) in a portion and the resulting solution was stirred at reflux for 48 h. Reaction mixture was concentrated in vacuo, yielding oily mixture which was partioned between 100 ml of EtOAc and NaHCO3 sat'd aqueous solution. Organic layer was separated, dried over Na2SO4 and concentrated in vacuo to provide an oil, which was redissolved in 20 ml of CH2Cl2. Toward this solution was added 1 ml of trifluoroacetic acid and the resulting solution was stirred for 2 h at 25° C. Reaction mixture was concentrated in vacuo, providing a brown oil, which was dissolved in EtOAc and washed with aqueous NaOH. organic layer was concentrated in vacuo to yield an oil which was subjected to column chromatography (30% MeOH/CHCl3) to provide 0.17 g (23%) of the desired product.

reactant | 1-naphthalenesulfonyl chloride | 5.4 mmol, 1.0 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | trimethylamine | 2 ml | CN(C)C | C3H9N
reactant | 3-t-butoxycarbonylpyrrolidine | 6.5 mmol, 1.5 g | C(C)(C)(C)OC(=O)C1CNCC1 | C9H17NO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 1-(Naphthalene-1-sulfonyl) -pyrrolidin-3 -ylamine | 0.17 g, 23% | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N1CC(CC1)N | C14H16N2O2S
